US09382188B2
D) 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-3-(1-methoxy-3,3-dimethylbutyl)biphenyl-4-yl)oxy)methyl)phenyl)propanoic acid
To a solution of ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-3-(1-methoxy-3,3-dimethylbutyl)-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)propanoate (385 mg) in ethanol (3.0 mL) was added 1N aqueous sodium hydroxide solution (3.0 mL), and the reaction mixture was stirred at 50° C. for 1 hr. 1N Hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (250 mg) as a colorless oil.

reactant | ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-3-(1-methoxy-3,3-dimethylbutyl)-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)propanoate | 385 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC1=C(C=C(C=C1)C1=C(C=CC(=C1)OC)F)C(CC(C)(C)C)OC | C35H43FO5
reactant | sodium hydroxide | 1N, 3.0 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-3-(1-methoxy-3,3-dimethylbutyl)biphenyl-4-yl)oxy)methyl)phenyl)propanoic acid | 250 mg | C1(CC1)C(CC(=O)O)C1=CC(=CC=C1)COC1=C(C=C(C=C1)C1=C(C=CC(=C1)OC)F)C(CC(C)(C)C)OC | C33H39FO5
